US06479490B2
To room temperature solution of 5-chloroindole (4.97 g) in dry DMF (40 mL) was added potassium hydroxide pellets (2.76 g) and stirred 1 h until most of the solid dissolved. The resulting mixture was cooled to 0° C. in an ice bath and iodomethane (2.45 mL) was added dropwise and later stirred overnight at room temperature under argon. The reaction mixture was poured into water and extracted twice with ETOAc. The combined ETOAc portions were combined, washed with water, dried over magnesium sulfate, concentrated, and flash chromatographed with 10% ETOAc/Hexane to give 1-methyl-5-chloroindole as a pink liquid (5.43 g).

reactant | 5-chloroindole | 4.97 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | potassium hydroxide | [OH-].[K+]
reactant | iodomethane | 2.45 mL | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-methyl-5-chloroindole | 5.43 g | CN1C=CC2=CC(=CC=C12)Cl | C9H8ClN
